US08497294B2
Sodium azide (13.86 g, 213.2 mmol) was added to a mixture of (RS)-2-(4-chlorophenyl)-2-(4-iodophenyl)oxirane (50.66 g, 142.1 mmol) in acetone (400 ml) and water (40 ml) and the mixture was stirred and held at reflux for 4 days. Upon cooling to room temperature the acetone was removed in vacuo, the residue was dissolved in ethyl acetate (500 ml), washed with water (250 ml) and then with brine (250 ml), the organic layer was separated and the solvent removed in vacuo to afford (RS)-2-azido-1-(4-chlorophenyl)-1-(4-iodophenyl)ethanol (56.77 g, 100%) as a pale yellow oil that slowly solidified upon standing to afford an off-white solid. 1H NMR (DMSO-d6) 7.68 (2H, d), 7.44 (2H, d), 7.38 (2H, d), 7.24 (2H, d), 6.38 (1H, br s), 3.99 (2H, s). MS: [M−H]− 398.

reactant | Sodium azide | 213.2 mmol, 13.86 g | [N-]=[N+]=[N-].[Na+]
reactant | (RS)-2-(4-chlorophenyl)-2-(4-iodophenyl)oxirane | 142.1 mmol, 50.66 g | ClC1=CC=C(C=C1)C1(OC1)C1=CC=C(C=C1)I | C14H10ClIO
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | (RS)-2-azido-1-(4-chlorophenyl)-1-(4-iodophenyl)ethanol | 56.77 g, 100% | N(=[N+]=[N-])CC(O)(C1=CC=C(C=C1)I)C1=CC=C(C=C1)Cl | C14H11ClIN3O
